US04072498
Following the procedure of Example 95, but substituting N,N-dimethyl-α,3-diphenylpyrazole-1-acetamide for N,N,α,4-tetramethyl-3-phenylpyrazole-1-acetamide and methyl iodide for ethyl iodide, there is obtained N,N,α-trimethyl-α,3-diphenylpyrazole-1-acetamide, m.p. 129°-131.5° C.

reactant | N,N,α,4-tetramethyl-3-phenylpyrazole-1-acetamide | CN(C(C(N1N=C(C(=C1)C)C1=CC=CC=C1)C)=O)C | C15H19N3O
reactant | methyl iodide | CI | CH3I
reactant | ethyl iodide | C(C)I | C2H5I
product | N,N,α-trimethyl-α,3-diphenylpyrazole-1-acetamide | CN(C(C(N1N=C(C=C1)C1=CC=CC=C1)(C1=CC=CC=C1)C)=O)C | C20H21N3O
